US07858632B2
N-[4-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenyl]-acetamide (16.4 g) in 100 ml glacial acetic acid was stirred at room temperature under N2, and palladium on activated carbon (3 g 10 wt % ) was added, followed by 5 g of ammonium formate. The reaction mixture was heated to reflux. After 30 minutes 5 g ammonium formate was added, and after 45 minutes another 8.5 g ammonium formate was added. Reflux was continued for another hour, then the reaction mixture was cooled, and filtered through Celite. The filtrate was diluted with water, extracted with EtOAc, and the combinded organic layers were washed with brine and dried over magnesium sulfate. Evaporation under reduced pressure gave N-(4-Isopropyl-3-methoxy-phenyl)-acetamide (15.1 g, 99% ).

reactant | N-[4-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenyl]-acetamide | 16.4 g | OC(C)(C)C1=C(C=C(C=C1)NC(C)=O)OC | C12H17NO3
reactant | ammonium formate | 5 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 5 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 8.5 g | C(=O)[O-].[NH4+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on activated carbon | 3 g | [Pd] | Pd
product | N-(4-Isopropyl-3-methoxy-phenyl)-acetamide | 15.1 g, 99% | C(C)(C)C1=C(C=C(C=C1)NC(C)=O)OC | C12H17NO2
